US08012976B2
8-(4-Fluorophenyl)-9-(1-methyl-1H-imidazo[4,5-c]pyridin-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
The mixture of ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-imidazo[4,5-c]pyridin-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (150 mg, 0.34 mmol) and hydrazine monohydrate (2 mL) in methanol (5 mL) was stirred at room temperature for 4 h. Then methanol was evaporated under reduced pressure and the residue was extracted with ethyl acetate (20 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated to give crude product, which was purified by chromatography (silica gel, DCM/MeOH=25:1 to 1:1) to give the title compound (6.7 mg, yield 5%). LC-MS (ESI) m/z: 413 (M+1)+. 1H-NMR (400 MHz, CD3OD) δ (ppm): 3.58 (s, 3H), 4.93-4.95 (d, J=11.6 Hz, 1H), 5.04-5.07 (d, J=11.6 Hz, 1H), 6.85-6.90 (t, J=8.8 Hz, 2H), 7.12-7.14 (d, J=8.0 Hz, 1H), 7.38-7.44 (m, 3H), 7.49-7.57 (m, 2H), 8.19-8.21 (d, J=5.6 Hz, 1H), 8.72 (s, 1H).

reactant | ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-imidazo[4,5-c]pyridin-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.34 mmol, 150 mg | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C=1N(C2=C(C=NC=C2)N1)C)=O)C(=O)OCC | C25H21FN4O3
reactant | hydrazine monohydrate | 2 mL | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 8-(4-Fluorophenyl)-9-(1-methyl-1H-imidazo[4,5-c]pyridin-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 6.7 mg, yield 5% | FC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C=1N(C2=C(C=NC=C2)N1)C | C23H17FN6O
